US04997844
5-Bromo-6-nitroindole was reacted with methyl 4-bromomethyl-3-methoxybenzoate using the procedure described in part (a) of Example 1 to give methyl 4-(5-bromo-6-nitroindol-1-ylmethyl)-3-methoxybenzoate (HH) in 65% yield and as a bright yellow solid; partial NMR: 3.89 (s,3H,OCH3), 3.94 (s,3H,OCH3), 5.35 (s,2H,NCH2), 6.53 (dd,1H,H3 -indole), 7.38 (d,1H,H2 -indole), 7.89 (s,1H,H4 -indole), 8.03 (br s,1H,H7 -indole).

reactant | 5-Bromo-6-nitroindole | BrC=1C=C2C=CNC2=CC1[N+](=O)[O-] | C8H5BrN2O2
reactant | methyl 4-bromomethyl-3-methoxybenzoate | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
product | methyl 4-(5-bromo-6-nitroindol-1-ylmethyl)-3-methoxybenzoate | 65% yield | BrC=1C=C2C=CN(C2=CC1[N+](=O)[O-])CC1=C(C=C(C(=O)OC)C=C1)OC | C18H15BrN2O5
